US04533661
(a) N2 -[(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, methyl ester
Cesium carbonate (2.14 g., 6.55 mmole) is added to a mixture of N2 -[(1,1-dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine (5.0 g., 13.10 mmole) and 20% aqueous methanol (30 ml.). The solution becomes homogeneous after 5 minutes, the methanol is stripped, and the residual water is removed azetropically with acetonitrile (twice). The resulting oil is taken up in dry methylene chloride (10 ml.) and treated with methyl iodide (1.6 ml., 2.0 eq.) at 25° in an argon atmosphere. After 4 hours the reaction mixture is taken up in ethyl acetate and washed successively with water, saturated sodium bicarbonate and brine, dried (MgSO4), and evaporated. The residue (4.7 g.) is chromatographed on silica (160 g.) eluting with hexane/ethyl acetate (3:1) to give 4.0 g. of N2 -[(1,1-dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, methyl ester as an oil after evaporation. TLC (hexane/ethyl acetate; 2:1) major spot at Rf =0.3.

reactant | Cesium carbonate | 6.55 mmole, 2.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N2 [(1,1-dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine | 13.10 mmole, 5.0 g | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C
reactant | methanol | 30 ml | CO | CH4O
reactant | methyl iodide | 1.6 ml, 2.0 eq. | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N2 [(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, methyl ester | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C | InChI=1S/C20H30N2O6.N2/c1-20(2,3)28-19(25)22-16(17(23)26-4)12-8-9-13-21-18(24)27-14-15-10-6-5-7-11-15;1-2/h5-7,10-11,16H,8-9,12-14H2,1-4H3,(H,21,24)(H,22,25);/t16-;/m0./s1
